US08076329B2
Reduction of 1-{3-[-4-(4-oxocyclohexyl)phenoxy]propyl}piperidine (1.57 g) as described for (3S)-1-{3-[trans-4-(4-hydroxycyclohexyl)phenoxy]propyl}-3-methyl-piperidine gives 600 mg of 1-{3-[trans-4-(4-hydroxycyclohexyl)phenoxy]-propyl}piperidine, oxalate as a white powder melting at 182° C.

reactant | 1-{3-[-4-(4-oxocyclohexyl)phenoxy]propyl}piperidine | 1.57 g | O=C1CCC(CC1)C1=CC=C(OCCCN2CCCCC2)C=C1 | C20H29NO2
reactant | (3S)-1-{3-[trans-4-(4-hydroxycyclohexyl)phenoxy]propyl}-3-methyl-piperidine | O[C@@H]1CC[C@H](CC1)C1=CC=C(OCCCN2C[C@H](CCC2)C)C=C1 | C21H33NO2
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | 1-{3-[trans-4-(4-hydroxycyclohexyl)phenoxy]-propyl}piperidine | 600 mg | O[C@@H]1CC[C@H](CC1)C1=CC=C(OCCCN2CCCCC2)C=C1 | C20H31NO2
